US07759369B2
4-Chloro-2-(bromomethyl)phenyl phenylmethyl ether
{5-chloro-2-[(phenylmethyl)oxy]phenyl}methanol (8.2 g, 33 mmol) was dissolved in dry dichloromethane under nitrogen and cooled to −10° C. Phosphorus tribromide (3.12 ml, 33 mmol) in dry dichloromethane (15 ml) was added slowly. The mixture was left at −10° C. for 15 mins, then stirred at room temperature overnight. TLC showed no more starting material. The mixture was then quenched with a saturated sodium hydrogen carbonate solution added very slowly. The mixture was diluted with dichloromethane and brine was added to aid separation. The organic phase was washed with water (×2), then dried (MgSO4) and evaporated. The residue was purified (50 g SPE column). Product comes off using 5% ethyl acetate in isohexane. White-ish solid obtained (8.1 g).

reactant | {5-chloro-2-[(phenylmethyl)oxy]phenyl}methanol | 33 mmol, 8.2 g | ClC=1C=CC(=C(C1)CO)OCC1=CC=CC=C1 | C14H13ClO2
reactant | Phosphorus tribromide | 33 mmol, 3.12 ml | P(Br)(Br)Br | Br3P
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 4-Chloro-2-(bromomethyl)phenyl phenylmethyl ether | C1(=CC=CC=C1)COC1=C(C=C(C=C1)Cl)CBr | C14H12BrClO
